US07122672B2
Step 1: Preparation of methyl 2-(6-quinolinyloxy)butyrate
6-Hydroxyquinoline (25.1 g), methyl 2-bromobutyrate (32.3 g) and anhydrous potassium carbonate (23.0 g) in dry N,N-dimethylformamide (100 ml) were stirred at 100° C. for 3 hours then stored at ambient temperature for 18 hours. The mixture was added to water, extracted with ethyl acetate (three times) and the extracts combined, washed with water (four times) then dried over magnesium sulphate. The solvent was evaporated under reduced pressure to give the required product (39.0 g) as a red oil.

reactant | 6-Hydroxyquinoline | 25.1 g | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
reactant | methyl 2-bromobutyrate | 32.3 g | BrC(C(=O)OC)CC | C5H9BrO2
reactant | potassium carbonate | 23.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | methyl 2-(6-quinolinyloxy)butyrate | 39.0 g | N1=CC=CC2=CC(=CC=C12)OC(C(=O)OC)CC | C14H15NO3
